US08536173B2
41 g of tert-butyl ester of 4-[5-(4-tert-butyl-piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid is put in a 1-liter three-necked flask under nitrogen atmosphere. 132 ml of dichloromethane is added, the reaction mixture is cooled on an ice bath and 257 ml of 4M solution of hydrochloric acid in dioxane is added dropwise. The temperature is allowed to return slowly to room temperature and then it is stirred for 2 h. The reaction mixture is diluted with dichloromethane, then it is cooled on an ice bath and saturated solution of NaHCO3 is added to pH=8. It is left to settle and the aqueous phase is extracted with dichloromethane. The organic phases are washed with water, then the combined organic phases are dried over Na2SO4, filtered on a frit and concentrated. The raw product obtained is chromatographed on silica gel, eluting with a gradient in the range from 100% dichloromethane to a dichloromethane/ethyl acetate/methanol/concentrated aqueous ammonia mixture in the proportions 70/25/5/1 and then with a dichloromethane/methanol/concentrated aqueous ammonia mixture in the proportions 90/10/1. 0.3 g of 1-[5-(4-tert-butyl-piperazin-1-yl)pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline is obtained.

reactant | 4-[5-(4-tert-butyl-piperazin-1-yl)pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid | C(C)(C)(C)N1CCN(CC1)C=1C=CC(=NC1)N1CCN(C2=CC=CC=C12)C(=O)O | C22H29N5O2
reactant | hydrochloric acid | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 132 ml | ClCCl | CH2Cl2
product | 1-[5-(4-tert-butyl-piperazin-1-yl)pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline | 0.3 g | C(C)(C)(C)N1CCN(CC1)C=1C=CC(=NC1)N1CCNC2=CC=CC=C12 | C21H29N5
